US04138564
EXAMPLE 8 8-Carbobenzoxy-2-fluoro-7,8,9,10-tetrahydro-5H-pyrazino[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one
To a solution of 14.0 g. of 1-(6-fluoro-3-nitro-2-pyridinyl)-4-carbobenzoxypiperazine-2-carboxylic acid in 300 ml. of acetic acid is added, while stirring, 7.0 g. of iron powder. The mixture is warmed to 55° for 3 hours then concentrated. The residue is treated with water and extracted with methylene chloride, dried (MgSO4) and concentrated. The residue is placed on a dry column of alumina and eluted with chloroform. The product band in the column is cut out and the product is washed from the alumina with methanol. Concentration of the methanol wash gives 5.0 g. of the light green-colored title product. Recrystallization from ethanol gives 2.2 g. of pure product, m.p. 210°-214°.

reactant | 1-(6-fluoro-3-nitro-2-pyridinyl)-4-carbobenzoxypiperazine-2-carboxylic acid | FC1=CC=C(C(=N1)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)O)[N+](=O)[O-] | C18H17FN4O6
catalyst | iron | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Carbobenzoxy-2-fluoro-7,8,9,10-tetrahydro-5H-pyrazino[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one | C(=O)(OCC1=CC=CC=C1)N1CC2N(C3=C(NC2=O)C=CC(=N3)F)CC1 | C18H17FN4O3
